### PR TITLE
feat: add multivariate polynomial modules

### PR DESCRIPTION
**Pull request by Shamrock-Frost**
Add a type synonym for multivariate polynomials with coefficients in a module.

---

Multivariate polynomials with module coefficients are sort of silly, but they sometimes show up in commutative algebra (eg in the definition of a quasi regular sequence). Writing this code involved a lot of copy and pasting from `PolynomialModule` and `MvPolynomial`. The API is definitely lacking at this stage but it's a start. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
I don't think `MvAEVal` should live in the same file as `MvPolynomialModule`, and 600+ lines are a bit too long both for a PR and a file that will grow.

**Comment by Shamrock-Frost** [comment]
That makes sense. Should `AEval` be split out of `Mathlib/Algebra/Polynomial/Module
/Basic.lean` first?

File: Mathlib/Algebra/MvPolynomial/Module/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,425 @@
...
+    AddCommGroup (MvPolynomialModule σ R M) := Finsupp.instAddCommGroup
+
+variable {σ} (R : Type*) {M} [DecidableEq σ] [CommSemiring R] [AddCommMonoid M] [Module R M]
+
+instance : Inhabited (MvPolynomialModule σ R M) := Finsupp.instInhabited
+noncomputable instance : AddCommMonoid (MvPolynomialModule σ R M) := Finsupp.instAddCommMonoid
+
+namespace MvPolynomialModule
+
+@[semireducible]
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Module/Basic.lean:43]: Why is this `semireducible`?

File: Mathlib/Algebra/MvPolynomial/Module/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,425 @@
...
+`Finsupp.lsingle`, and is redefined here so that it has the desired type signature. -/
+noncomputable def monomial (i : σ →₀ ℕ) : M →ₗ[R] MvPolynomialModule σ R M :=
+  Finsupp.lsingle i
+
+/-- `C m` is the constant polynomial with value `m`. -/
+noncomputable def C : M →ₗ[R] MvPolynomialModule σ R M := monomial R 0
+
+variable {R}
+
+theorem induction_linear {P : MvPolynomialModule σ R M → Prop}
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Module/Basic.lean:89]:
```suggestion
@[elab_as_elim]
theorem induction_linear {P : MvPolynomialModule σ R M → Prop}
```

File: Mathlib/Algebra/MvPolynomial/Module/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,425 @@
...
+  refine le_antisymm (?_ : N ≤ ⟨K.toAddSubmonoid, H⟩) ?_
+  · exact span_le.mpr (fun _ h => mem_iSup_of_mem 0 (subset_span h))
+  · refine iSup_le fun a => span_le.mpr (image_subset_iff.mpr ?_)
+    intro m h
+    refine (congrArg (· ∈ span _ _) monomial_eq).mpr ?_
+    exact smul_mem _ _ (subset_span (mem_image_of_mem _ h))
+
+variable (M)
+
+lemma top_eq_span_base_monomials :
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Module/Basic.lean:207]: Similarly this is maybe `iSup_range_monomial_eq_top`, and the direction of the lemma should be reversed.

**Comment by erdOne** [comment]
Again, as indicated before, this PR is too big and has multiple goals. If you can split out `Mathlib/Algebra/MvPolynomial/Module/Basic.lean` into a separate PR, I'll happily maintainer merge the rest.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
